US07888364B2
140 mg of (R)-propylene oxide was reacted with methyl 2-chloro-4-mercaptobenzoate via Procedure S to afford (R)-methyl 2-chloro-4-(2-hydroxypropylthio)benzoate. 435 mg of (R)-methyl-2-chloro-4-(2-hydroxypropylthio)benzoate was hydrolyzed via Procedure M to give (R)-2-chloro-4-(2-hydroxypropylthio)benzoic acid. 403 mg of (R)-2-chloro-4-(2-hydroxypropylthio)benzoic acid was reacted via Procedure R to give (R)-2-chloro-4-(2-hydroxypropylsulfonyl)benzoic acid. 298 mg of 4-chloro-3-(pyridine-2-yl)aniline was coupled to (R)-2-chloro-4-(2-hydroxypropylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield (R)-2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-hydroxypropylsulfonyl)benzamide. MS (Q1) 465.1 (M)+.

reactant | (R)-propylene oxide | 140 mg | C1[C@@H](C)O1 | C3H6O
reactant | methyl 2-chloro-4-mercaptobenzoate | ClC1=C(C(=O)OC)C=CC(=C1)S | C8H7ClO2S
product | (R)-methyl 2-chloro-4-(2-hydroxypropylthio)benzoate | ClC1=C(C(=O)OC)C=CC(=C1)SC[C@@H](C)O | C11H13ClO3S
